US06329370B1
6-methoxy-5-pyridin-4-ylmethyl-2H-phthalazin-1-one
A suspension of 5-ethynyl-6-methoxy-2H-phthalazin-1-one (1.9 g, 9.49 mmoles), prepared as described in example 140, 4-bromopyridine hydrochloride (2.214 g, 11.39 mmoles), bis(triphenylphosphine)PdCl2 (133 mg, 0.1998 mmole) and CuI (36 mg, 0.1898 mmole) in diethylamine (40 ml) was heated at 75° C. for 1 hour, cooled, diluted with water (40 ml) and the solid was filtered after 30 minutes under stirring. The solid was suspended in acetone, stirred for 15 minutes, filtered again and dried in oven at 45° C. under vacuum giving 2.263 g of the title compound (yield: 86%).

reactant | 5-ethynyl-6-methoxy-2H-phthalazin-1-one | 9.49 mmoles, 1.9 g | C(#C)C1=C2C=NNC(C2=CC=C1OC)=O | C11H8N2O2
reactant | 4-bromopyridine hydrochloride | 11.39 mmoles, 2.214 g | Cl.BrC1=CC=NC=C1
solvent | diethylamine | 40 ml | C(C)NCC | C4H11N
solvent | water | 40 ml | O | H2O
catalyst | CuI | 0.1898 mmole, 36 mg | [Cu]I
product | 6-methoxy-5-pyridin-4-ylmethyl-2H-phthalazin-1-one | 2.263 g, yield: 86% | COC=1C(=C2C=NNC(C2=CC1)=O)CC1=CC=NC=C1 | C15H13N3O2
